US07582773B2
Step 2: Synthesis of 5-(4-Methoxy-phenyl)-1,3-dimethyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 5-bromo-1,3-dimethyl-2-phenyl-1H-indole (1.358 g, 4.524 mmol) was reacted with aqueous 2M K2CO3 (4.5 ml), 4-methoxyphenylboronic acid (0.825 g, 5.429 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.074 g, 0.090 mmol) in dioxane (46 ml) to give the desired product (0.563 g, 1.719 mmol, 38%) as a white solid, mp 156-159° C. 1H NMR (DMSO-d6) δ 2.25 (s, 3H), 3.61 (s, 3H), 3.79 (s, 3H), 7.01 (d, J=8.7 Hz, 2H), 7.43-7.50 (m, 5H), 7.55 (t, J=7.8 Hz, 2H), 7.64 (d, J=8.7 Hz, 2H), 7.73 (s, 1H); [ESI(+)], m/z 328 (M+H)+.

reactant | 5-bromo-1,3-dimethyl-2-phenyl-1H-indole | 4.524 mmol, 1.358 g | BrC=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)C | C16H14BrN
reactant | K2CO3 | 2M, 4.5 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 5.429 mmol, 0.825 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.090 mmol, 0.074 g | ClCCl | CH2Cl2
solvent | dioxane | 46 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-Methoxy-phenyl)-1,3-dimethyl-2-phenyl-1H-indole | 1.719 mmol, 0.563 g, 38% | COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)C | C23H21NO
